US06995183B2
To a solution of DMSO (4 mL, 57.7 mmol) in DCM (125 mL) under nitrogen at −78° C. was added dropwise oxalyl chloride (2.0 M in DCM, 18.75 mL, 37.5 mmol) over 30 min. After final addition the reaction mixture was stirred at −78° C. for 30 min. With the reaction mixture still at −78° C. , a solution of crude (3,5-dimethyladamant-1-yl)methanol from above in DCM (50 mL) was added dropwise over 20 min. After stirring the reaction at −78° C. for 2 h, Et3N (15 mL) was added slowly over 10 min and the reaction was stirred for 30 min at −78° C. Saturated NaH2PO4 (15 mL) was added followed by water (150 mL), and the reaction was then warmed to rt. The DCM layer was separated, washed twice with 1N HCl and sat'd NaHCO3, dried over MgSO4, filtered and concentrated to give the step 1 compound, 3,5-dimethyladamantane-1-carboxaldehyde (5.58 g).

reactant | DMSO | 57.7 mmol, 4 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 37.5 mmol, 2.0 M, 18.75 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3,5-dimethyladamant-1-yl)methanol | CC12CC3(CC(CC(C1)(C3)C)C2)CO | C13H22O
reactant | Et3N | 15 mL | CCN(CC)CC | C6H15N
solvent | DCM | 125 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 3,5-dimethyladamantane-1-carboxaldehyde | 5.58 g | CC12CC3(CC(CC(C1)(C3)C)C2)C=O | C13H20O
